US05252538
Preparation of diethyl 5-ethylpyridine-2,3-dicarboxylate
To a solution of diethyl ethoxymethyleneoxalacetate (43.2 g, 0.16 mol) dissolved in CH3OH (150 mL) at -10° under N2 is added 1-morpholinobutene (25 g, 0.16 mol). The reaction is slowly warmed to room temperature over three hours, after which the CH3OH is removed in vacuo. The residue is dissolved in acetic acid (100 mL) and this solution slowly added to NH4Cl (34.2 g, 0.64 mol) dissolved in acetic acid (200 mL) at 50°-70°. The reaction is then heated to 90°-95° for two hours and 30 minutes, concentrated in vacuo, partitioned between water and the CH2Cl2, and the organic phase chromatographed over silica gel with CH2Cl2 --CH3CN (95:5) elution to give the product as an oil. Distillation at 123°-155° at 0.15 mm gives the product (23.4 g, 83% pure, 55%).

reactant | diethyl ethoxymethyleneoxalacetate | 0.16 mol, 43.2 g | C(C)OC=C(C(=O)OCC)C(=O)C(=O)OCC | C11H16O6
reactant | 1-morpholinobutene | 0.16 mol, 25 g | O1CCN(CC1)C=CCC | C8H15NO
reactant | NH4Cl | 0.64 mol, 34.2 g | [NH4+].[Cl-]
solvent | CH3OH | 150 mL | CO | CH4O
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | diethyl 5-ethylpyridine-2,3-dicarboxylate | C(C)C=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C13H17NO4
